US05284739
2-Trifluoromethyl-4-quinazolinone
2-(Trifluoroacetamido)benzamide (73.0 g, 0.31 mole) was heated in ethylene glycol (150ml) in an oil bath with stirring. The amide dissolved at around 130° and product began to precipitate out at 150°. The temperature was held at 150° for a further 1 hour before cooling. The solid was filtered off washing well with cold water to give the product, 55.7 g (84%).

reactant | 2-(Trifluoroacetamido)benzamide | 0.31 mole, 73.0 g | FC(C(=O)NC1=C(C(=O)N)C=CC=C1)(F)F | C9H7F3N2O2
solvent | ethylene glycol | 150ml | C(CO)O | C2H6O2
product | 2-Trifluoromethyl-4-quinazolinone | FC(C1=NC2=CC=CC=C2C(N1)=O)(F)F | C9H5F3N2O
